US08377923B2
Methyl 2-bromo-3-cyclopropyl-3-oxopropanoate (3.3 g) and thiourea (900 mg) were dissolved in ethanol (20 ml) followed by stirring at 80° C. overnight. After cooling to room temperature, the solvent was evaporated under reduced pressure, and the residue was washed with isopropanol to obtain, as a grayish white solid, methyl 2-amino-4-cyclopropyl-1,3-thiazole-5-carboxylate monohydrobromide (2.82 g).

reactant | Methyl 2-bromo-3-cyclopropyl-3-oxopropanoate | 3.3 g | BrC(C(=O)OC)C(=O)C1CC1 | C7H9BrO3
reactant | thiourea | 900 mg | NC(=S)N | CH4N2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | methyl 2-amino-4-cyclopropyl-1,3-thiazole-5-carboxylate monohydrobromide | 2.82 g | Br.NC=1SC(=C(N1)C1CC1)C(=O)OC | InChI=1S/C8H10N2O2S.BrH/c1-12-7(11)6-5(4-2-3-4)10-8(9)13-6;/h4H,2-3H2,1H3,(H2,9,10);1H
